US07291631B2
COMPOUND 313: 4-[(3.5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid benzothiazol-2-ylamide
To a solution of 1,1′-carbonyldiimidazole (125 mg, 0.77 mmol) in CH2Cl2 (5 mL) was added 2-aminobenzothiazole (95 mg, 0.64 mmol). The resulting suspension was stirred for 2 h and then concentrated under reduced pressure. The residue was dissolved in CH3CN (5 mL) and was treated with (3,5-dimetyl-pyrdin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidine-4-yl-amine (112 mg, 0.32 mmol) and the reaction mixture was stirred at 60° C. overnight. Then the mixture was cooled and diluted with CH2Cl2/saturated NaHCO3 (1:1, 40 mL). The aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated to afford a pink foam. Purification by radial chromatography on silica gel (2 mm plate; using CH2Cl2/MeOH/NH4OH; 50:1:1) afforded the product as a white solid (84 mg, 50%). 1H NMR (CDCl3) δ 0.91 (d, 6H, J=6.9 Hz), 1.60-1.72 (m, 2H), 1.91 (d, 2H, J=11.4 Hz), 2.14 (s, 3H), 2.27 (s, 3H), 2.68-2.80 (m, 4H), 3.74 (s, 2H), 3.81 (s, 2H), 4.24 (br s, 1H), 4.28 (br s, 1H), 7.13 (dd, 1H, J=7.8, 4.8 Hz), 7.148-7.24 (m, 2H), 7.35 (t, 1H, J=7.2 Hz), 7.48 (dd, 1H, J=7.8, 1.5 Hz), 7.58 (br d, 1H, J=8.1 Hz), 7.74 (br d, 1H, J=7.8 Hz), 8.18 (s, 1H), 8.31 (dd, 1H, J=4.5, 1.5 Hz). 13C NMR (CDCl3) δ 18.30, 18.47, 23.61, 27.41, 27.65, 44.94, 54.31, 57.18, 119.37, 121.81, 123.20, 123.58, 126.35308 132.04, 132.31, 133.18, 133.87, 139.07, 144.38, 146.11, 146.68, 147.39, 154.36, 156.18, 162.71. ES-MS m/z 529 [M+H]+. Anal. Calcd. for C30H36N6OS.0.1CH2Cl2: C, 67.30; H, 6.79; N, 15.64; S, 5.97. Found: C, 67.56; H, 6.86; N, 15.52; S, 5.89.

reactant | 1,1′-carbonyldiimidazole | 0.77 mmol, 125 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminobenzothiazole | 0.64 mmol, 95 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | (3,5-dimetyl-pyrdin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidine-4-yl-amine | 0.32 mmol, 112 mg | CC=1C(=NC=C(C1)C)CN(C1CCNCC1)CC1=NC=CC=C1C(C)C | C22H32N4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-[(3.5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid benzothiazol-2-ylamide | 84 mg, 50% | S1C(=NC2=C1C=CC=C2)NC(=O)N2CCC(CC2)N(CC2=NC=CC=C2C(C)C)CC2=NC=C(C=C2C)C | C30H36N6OS
